US03992400
1-[α-(o-chlorophenyl)-o-tolyl]imidazole
In the manner given in Example 1, α-(o-chlorophenyl)-o-toluidine is reacted first with trimethyl orthoformate; the resulting product is reacted with aminoacetaldehyde, dimethyl acetal, and the resulting productof this reaction is heated with titanium tetrachloride in monoglyme to give1-[α-(o-chlorophenyl)-o-tolyl]imidazole.

reactant | α-(o-chlorophenyl)-o-toluidine | ClC1=C(C=CC=C1)CC=1C(N)=CC=CC1 | C13H12ClN
reactant | trimethyl orthoformate | C(OC)(OC)OC | C4H10O3
reactant | aminoacetaldehyde | NCC=O | C2H5NO
solvent | monoglyme | C(OC)COC | C4H10O2
catalyst | titanium tetrachloride | [Ti](Cl)(Cl)(Cl)Cl
product | 1-[α-(o-chlorophenyl)-o-tolyl]imidazole | ClC1=C(C=CC=C1)CC1=C(C=CC=C1)N1C=NC=C1 | C16H13ClN2
